US06251917B1
a) Ethyl 4-phenylsulfonamidobenzoate
5 g (30.3 mmol) of ethyl 4-aminobenzoate were dissolved in 100 ml of pyridine and admixed dropwise at 0° C. with 4.1 ml (31.8 mmol) of benzenesulfonyl chloride. The mixture was stirred for 3 h. The mixture was then concentrated under reduced pressure and the residue was recrystallized from ethanol. 7.3 g (85%) of the product were obtained.

reactant | ethyl 4-aminobenzoate | 30.3 mmol, 5 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | benzenesulfonyl chloride | 31.8 mmol, 4.1 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl 4-phenylsulfonamidobenzoate | 7.3 g, 85% | C1(=CC=CC=C1)S(=O)(=O)NC1=CC=C(C(=O)OCC)C=C1 | C15H15NO4S
